US07550478B2
7-(1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (Compound 332)
A test tube fitted with a teflon septum was charged with 7-(1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (50 mg, 0.13 mmol), PdCl2(PPh3)2 (9 mg, 0.013 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (78 mg, 0.38 mmol), and sodium carbonate (40 mg, 0.38 mmol). The tube was evacuated and backfilled with argon three times. Fully degassed dioxane (1.2 mL) was added and the mixture was stirred at 100° C. overnight. The solution was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, concentrated in vacuo, and purified via flash chromatography (silica, 20-100% ethyl acetate/hexanes) to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 8.99 (d, 1H); 8.58 (d, 1H); 8.19 (d, 1H); 7.90 (d, 1H); 7.97 (s, 1H); 7.72 (dd, 1H); 7.56 (d, 1H); 7.32 (d, 1H); 7.22 (d, 1H); 5.01 (q, 1H); 3.97 (s, 3H); 1.44 (d, 3H); 0.90 (s, 9H); 0.06 (s, 3H); −0.02 (s, 3H). LRMS (APCI) calc'd for (C26H32N3O2Si) [M+H]+, 446.2; found, 446.2.

reactant | 7-(1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.13 mmol, 50 mg | [Si](C)(C)(C(C)(C)C)OC(C)C=1C=CC2=C(C(C=3C(=NC=C(C3)Cl)C=C2)=O)C1 | C22H26ClNO2Si
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.38 mmol, 78 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | sodium carbonate | 0.38 mmol, 40 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | PdCl2(PPh3)2 | 0.013 mmol, 9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(1-methyl-1H-pyrazol-4-yl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | [Si](C)(C)(C(C)(C)C)OC(C)C=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1 | C26H31N3O2Si
